US08012986B2
3-{1-[4-Difluoromethyl-6-(6-trifluoromethyl-pyridin-3-yl)-pyrimidin-2-yl]-1H-imidazol-4-yl}-benzenesulfonamide
To a cooled and stirred solution of 3-{1-[4-difluoromethyl-6-(6-trifluoromethyl-pyridin-3-yl)-pyrimidin-2-yl]-1H-imidazol-4-yl}-benzenesulfonic acid tert-butylamide (0.06 g) in dichloromethane (2 ml) was added TFA (2 ml) and the reaction mixture was allowed to stir at room temperature for 15 h. The mixture was evaporated to dryness, poured into 2N Na2CO3 solution (25 ml) and extracted with ethyl acetate (3×50 ml). The combined organic layers were washed with brine (50 ml), dried (MgSO4) and evaporated. Further purification by column chromatography on silica gel (dichloromethane/MeOH/NH4OH 16:1:0.1) and crystallization (diethyl ether) yielded the title compound as a white solid (0.022 g, 4%). MS (ISP) 497.2 [(M+H)+]; mp 219.5° C.

reactant | 3-{1-[4-difluoromethyl-6-(6-trifluoromethyl-pyridin-3-yl)-pyrimidin-2-yl]-1H-imidazol-4-yl}-benzenesulfonic acid tert-butylamide | 0.06 g | C(C)(C)(C)NS(=O)(=O)C1=CC(=CC=C1)C=1N=CN(C1)C1=NC(=CC(=N1)C(F)F)C=1C=NC(=CC1)C(F)(F)F | C24H21F5N6O2S
reactant | TFA | 2 ml | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
product | 3-{1-[4-Difluoromethyl-6-(6-trifluoromethyl-pyridin-3-yl)-pyrimidin-2-yl]-1H-imidazol-4-yl}-benzenesulfonamide | 0.022 g, 4% | FC(C1=NC(=NC(=C1)C=1C=NC(=CC1)C(F)(F)F)N1C=NC(=C1)C=1C=C(C=CC1)S(=O)(=O)N)F | C20H13F5N6O2S
